US07678798B2
6-(Trifluoromethyl)-1H-inden-1-one
To a solution of pyridinium chlorochromate (1.08 g, 5.0 mmol) in methylene chloride (15 mL) was added dropwise a solution of 6-(trifluoromethyl)-1H-inden-1-ol (500 mg, 2.498 mmol) in methylene chloride (10 mL). After being stirred for 14 h, ether (30 mL) was added, and the reaction mixture was filtered through silica gel. The filtrate was concentrated in vacuo. The crude material was chromatographed (10:1 hexane/EtOAc) to afford 200 mg (40%) of the product. LC-MS [M+1]=199.2.

reactant | pyridinium chlorochromate | 5.0 mmol, 1.08 g | [Cr](=O)(=O)([O-])Cl.[NH+]1=CC=CC=C1
reactant | 6-(trifluoromethyl)-1H-inden-1-ol | 2.498 mmol, 500 mg | FC(C1=CC=C2C=CC(C2=C1)O)(F)F | C10H7F3O
reactant | ether | 30 mL | CCOCC | C4H10O
solvent | methylene chloride | 15 mL | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 10 mL | C(Cl)Cl | CH2Cl2
product | 6-(Trifluoromethyl)-1H-inden-1-one | 200 mg, 40% | FC(C1=CC=C2C=CC(C2=C1)=O)(F)F | C10H5F3O
